US07642270B2
3-(Bicyclo[2.2.1]hept-2-ylamino)-propionic acid ethyl ester (1.5 g, 7.1 mmol) and 4-chloro-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (1.6 g, 7.1 mmol) were combined in CH2Cl2 (20 mL) and triethylamine (1.0 g, 10 mmol) was added. After 16 h, water (10 mL) was added the organic layer was separated, dried (MgSO4), and concentrated. Chromatography (10-50% EtOAc/hexanes gradient) provided 1.8 g of 4-[bicyclo[2.2.1]hept-2-yl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester. Sodium (30 wt % dispersion in paraffin wax, 0.55 g, 7.2 mmol) was added to t-butanol (5.0 mL) at rt. After 30 minutes, a solution of 4[bicyclo[2.2.1]hept-2-yl-(2-ethoxycarbonyl-ethyl)-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (1.8 g, 4.4 mmol) in 20 mL of toluene was added to the sodium t-butoxide solution and the resulting mixture was heated at 90° C. for 30 minutes. The reaction mixture was then cooled and the solution was adjusted to pH 7 using a 1N HCl solution. The solution was then extracted with EtOAc (2×20 mL) and the organic layer was dried (MgSO4), and concentrated. Recrystallization from i-PrOH provided 0.51 g of 8-bicyclo[2.2.1]hept-2-yl-2-methylsulfanyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. 8-Bicyclo[2.2.1]hept-2-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (46 mg, 0.12 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (22 mg, 0.12 mmol) were combined in i-PrOH (2 mL) and heated to 90° C. After 3 h, the reaction mixture was concentrated and purified by preparative HPLC (C-18 column, 32 mL/min 5-100% MeCN/H2O gradient over 15 min) and lyophilized to provide 11.4 mg of 8-bicyclo[2.2.1]hept-2-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.21 (s, 1H), 8.59 (s, 1H), 7.52 (d, 2H, J=8.9 Hz), 6.87 (d, 2H, J=9.0 Hz), 4.31 (q, 2H, J=7.1 Hz), 3.52-3.62 (m, 4H), 3.28 (br s, 2H), 2.98 (br s, 2H), 2.82 (s, 3H), 2.14-2.53 (m, 5H), 1.58-1.75 (m, 4H), 1.22-1.42 (m, 5H).

reactant | 8-Bicyclo[2.2.1]hept-2-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.12 mmol, 46 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1C2CCC(C1)C2)=O | C18H21N3O5S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.12 mmol, 22 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 8-bicyclo[2.2.1]hept-2-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 11.4 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C1C2CCC(C1)C2)=O | C28H34N6O3
